US08476300B2
5-(6-methoxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-yl)thiophene-2-carboxamide
Add 5-(6-methoxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalene-2-yl)thiophene-2-carboxylic acid (86 mg, 0.2 mmol) and dichloromethane (2.4 mL) to a round bottom flask under nitrogen. Cool the suspension to 0° C. and add sequentially oxalyl chloride (22.2 μL, 0.3 mmol) and dimethylformamide (30.0 μL). Warm the resulting mixture to room temperature and stir for 30 minutes. Concentrate in vacuo to give a yellow solid. Add tetrahydrofuran (2.5 mL) to the solid. To the resulting suspension add a solution of ammonia (12.1M in water; 3 mL, 36.4 mmol) in tetrahydrofuran (5.7 mL). Stir the resulting solution for 30 minutes; then dilute with ether. Separate the layers and dry the organic layer (Na2SO4), filter and concentrate in vacuo to give a tan solid. Dissolve the resulting solid in methanol and load onto an SCX acidic ion exchange column. Flush the column with methanol then elute desired material with 2M ammonia in methanol. Concentrate the ammonia containing eluent to obtain the title compound (79 mg, 0.16 mmol) 1H NMR (d6-DMSO) δ 1.32-1.27 (m, 2H), 1.44-1.38 (m, 4H), 2.33 (s, 4H), 2.53 (t, J=5.9 Hz, 2H), 3.27 (s, 2H), 3.83 (s, 3H), 3.89 (t, J=5.9 Hz, 2H), 6.66-6.61 (m, 3H), 6.79-6.76 (m, 2H), 7.09 (dd, J=2.6, 9.2 Hz, 1H), 7.39 (d, J=2.6 Hz, 1H), 7.65-7.61 (m, 3H), 7.79 (d, J=8.8 Hz, 1H), 7.99 (d, J=8.8 Hz, 1H).

reactant | 5-(6-methoxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalene-2-yl)thiophene-2-carboxylic acid | 0.2 mmol, 86 mg | COC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(C=C1)OCCN1CCCCC1)C1=CC=C(S1)C(=O)O | C29H29NO5S
reactant | dichloromethane | 2.4 mL | ClCCl | CH2Cl2
reactant | oxalyl chloride | 0.3 mmol, 22.2 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ammonia | 36.4 mmol, 12.1M, 3 mL | N | H3N
solvent | tetrahydrofuran | 5.7 mL | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | methanol | CO | CH4O
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
solvent | dimethylformamide | 30.0 μL | CN(C=O)C | C3H7NO
product | 5-(6-methoxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-yl)thiophene-2-carboxamide | 0.16 mmol, 79 mg | COC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(C=C1)OCCN1CCCCC1)C1=CC=C(S1)C(=O)N | C29H30N2O4S
